2187-12-29 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TEMPORARY PACEMAKER WIRES INSERTED - At [**2187-12-28**] 11:00 AM
 CARDIAC CATH - At [**2187-12-28**] 11:30 AM
 ARTERIAL LINE - START [**2187-12-28**] 12:00 PM
 CORDIS/INTRODUCER - START [**2187-12-28**] 12:00 PM
 ARTERIAL LINE - STOP [**2187-12-28**] 01:30 PM
 TRANSTHORACIC ECHO - At [**2187-12-28**] 03:00 PM
 BLOOD CULTURED - At [**2187-12-28**] 08:45 PM
   1 and 2
 URINE CULTURE - At [**2187-12-28**] 08:45 PM
   Post-cath check normal
   Started Integralin.  Did not receive for 3 hours (1:30-4:30) as not
   properly connected.
   Sustained VT for 30s x 3.  Appeared to be in Wenkeback prior.  Got
   lidocaine.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Lidocaine - 2 mg/min
   Other ICU medications:
   Insulin - Regular - [**2187-12-28**] 03:00 PM
   Heparin Sodium (Prophylaxis) - [**2187-12-28**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-29**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.8
C (100.1
   HR: 69 (40 - 97) bpm
   BP: 147/64(85) {106/56(72) - 150/76(91)} mmHg
   RR: 19 (15 - 90) insp/min
   SpO2: 96%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 72 Inch
    CO/CI (Fick): (3 L/min) / (1.5 L/min/m2)
   Mixed Venous O2% Sat: 44 - 44
   Total In:
                                                                  2,146 mL
                                                                    357 mL
   PO:
                                                                    300 mL
   TF:
   IVF:
                                                                    986 mL
                                                                    357 mL
   Blood products:
   Total out:
                                                                  1,050 mL
                                                                    400 mL
   Urine:
                                                                  1,050 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,096 mL
                                                                    -43 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   GENERAL: WDWN male in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   Bradycardic, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Mild crackles at bases.
   ABDOMEN: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: No c/c/e. No femoral bruits. Pacer line in right femoral
   fossa.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   204 K/uL
   12.5 g/dL
   199 mg/dL
   1.4 mg/dL
   22 mEq/L
   4.0 mEq/L
   34 mg/dL
   98 mEq/L
   133 mEq/L
   35.3 %
   10.8 K/uL
        [image002.jpg]
                            [**2187-12-28**]  05:03 PM
                            [**2187-12-28**]  08:31 PM
                            [**2187-12-28**]  11:02 PM
                            [**2187-12-29**]  05:30 AM
   WBC
   10.3
   11.8
   10.8
   Hct
   38.3
   35.1
   35.3
   Plt
   [**Telephone/Fax (3) 2185**]
   Cr
   1.6
   1.4
   TropT
   2.79
   2.32
   Glucose
   216
   199
   Other labs: PT / PTT / INR:13.7/25.2/1.2, CK / CKMB /
   Troponin-T:430/8/2.32, ALT / AST:70/63, Alk Phos / T Bili:113/1.1,
   Lactic Acid:2.1 mmol/L, Albumin:3.4 g/dL, LDH:692 IU/L, Mg++:2.2 mg/dL
   Assessment and Plan
   56 M with no PMH, Jehova's witness p/w weakness, bradycardia,
   hyperglycemia, STEMI now s/p stenting of posterorlateral RCA.
   Infarction likely of AV node causing bradycardia
   .
   ST-ELEVATION MYOCARDIAL INFARCTION - Patient with significant
   right-sided infarction.  Elevated troponin/CK-MB and history suggest
   significant duration of ischemia and low chance of myocardial
   recovery.  CKs have peaked.  Patient is s/p RCA stenting.
   - Medical management with ASA, statin, plavix.  Now off integralin.
   - Daily EKGs
   - Will start captopril today.  No beta-blocker as bradycardic.
   .
   BRADYCARDIA - Likely seconday to ichemia of conduction system.  Patient
   appears to have isorhythmic dissociation.  Pacer wires placed in cath
   lab.  Rhythm progressed from CHB to 2nd-degree to 1st -degree
   (conduction delay).
   - D/C pacer leads today as no longer with a rhythm that would indicate
   need for PPM and improving HR.
   - D/C lidocaine
   - No beta-blocker
   .
   PUMP - Will need careful monitoring of volume status as severly
   dehydrated from hyperglycemia and likely poor cardiac output secondary
   to right-sided MI.
   - Gental hydration post-cath.
   - Monitor for signs of volume overload
   - Echo today
   .
   HYPERGLYCEMIA - Hyperglycemia likely represents longstanding
   undiagnosed diabetes.  HbA1c 11.9 indicative of chronic disease.  Off
   insulin gtt.  Based on gtt requirements of [**3-19**] U/hr (> 50 U/day) and 14
   unit sliding scale requirement in 12 hours off gtt.  Will start with
   NPH 14 [**Hospital1 **] plus sliding scale and uptitrate NPH as needed.
   - Will need PCP [**Last Name (NamePattern4) 2207**]
   .
   RENAL FAILURE - Suspect acute renal failure in setting of poor
   perfusion and hyperglycemic hypovolemia.  [**Month (only) 11**] represent diabetic
   nephropathy if more chronic.  Improved today.
   - Daily Cr.
   - Outpatient urine protein.
   .
   CLINICAL TRIAL - Patient is on ICE-T-TIMI-49 trial, a RCT of low dose
   IC tenecteplace during PCI for STEMIs.  He received tenecteplase or
   placebo.  Patient had ECK at noon and 2 PM, and CBC at 5PM and 11AM, as
   well as CK, CK-MB and Tropin T q8 hours for 3 sets.  He will be
   contact[**Name (NI) **] at 30-35 days by phone to assess for adverse advents
   .
   FEN: Diabetic, cardiac diet.
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with SQ heparin
   -Bowel regimen colase/senna if needed
   CODE: Confirmed full
   DISPO: CCU
   CONTACT: Wife Cell [**Telephone/Fax (1) 2146**];  [**Name2 (NI) 1246**] [**Telephone/Fax (1) 2147**]
           1. IV access: Peripheral line Order date: [**12-28**] @ 1215
   12. Heparin IV per Weight-Based Dosing Guidelines
   Order date: [**12-29**] @ 1155
   2. IV access: Temporary central access (ICU) Location: Right Femoral,
   Date inserted: [**2187-12-28**] Order date: [**12-28**] @ [**2081**]
   13. Insulin SC  (per Insulin Flowsheet)
         Sliding Scale & Fixed Dose Order date: [**12-29**] @ 1421
   3. 75 mEq Sodium Bicarbonate/ 1000 mL 1/2 NS
   Continuous at 100 ml/hr for 1000 ml Order date: [**12-29**] @ 1410
   14. Influenza Virus Vaccine 0.5 mL IM ASDIR
   Follow Influenza Protocol Document administration in POE   Order date:
   [**12-28**] @ 1212
   4. Acetaminophen 325-650 mg PO Q6H:PRN  Order date: [**12-28**] @ [**2209**]
   15. Insulin 100 Units/100 ml NS @ 0-10 UNIT/HR IV DRIP TITRATE TO
   Titrate to BS < 160
   Fingersticks every hour  Order date: [**12-28**] @ 1217
   5. Aspirin EC 325 mg PO DAILY  Order date: [**12-28**] @ 1117
   16. Lidocaine 80 mg IV BOLUS ONCE Duration: 1 Doses Order date: [**12-28**] @
   2354
   6. Atorvastatin 80 mg PO DAILY  Order date: [**12-28**] @ 1244
   17. Lidocaine 2 mg/min IV DRIP INFUSION Duration: 24 Hours Start: After
   completion of bolus dose Order date: [**12-28**] @ 2354
   7. Atropine Sulfate 0.5 mg IV X1:PRN symptomatic bradycardia &
   hypotension
   [**Month (only) 11**] repeat up to 2 mg total (including Atropine during procedure).
   Order date: [**12-29**] @ 1309
   18. Nitroglycerin 0.05-0.2 mcg/kg/min IV DRIP TITRATE TO chest pain
   free  Order date: [**12-29**] @ 1203
   8. Captopril 6.25 mg PO TID
   Hold for SBP < 90  Order date: [**12-29**] @ 1801
   19. Senna 1 TAB PO BID:PRN  Order date: [**12-28**] @ 1405
   9. Clopidogrel 75 mg PO DAILY
   for the recommended duration  Order date: [**12-28**] @ 1117
   20. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**12-28**] @ 1215
   10. Docusate Sodium 100 mg PO BID PRN  Order date: [**12-28**] @ 1405
   21. Sodium Chloride 0.9% Flush 10 mL IV PRN line flush
   Temporary Central Access-ICU: Flush with 10mL Normal Saline daily and
   PRN.  Order date: [**12-28**] @ [**2081**]
   11. Eptifibatide 14.4 mg IV ONCE Duration: 1 Doses
   Then start drip  Order date: [**12-29**] @ 1201

2187-12-30 06:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CORDIS/INTRODUCER - STOP [**2187-12-29**] 11:44 AM
 TEMPORARY PACEMAKER WIRES DISCONTINUED - At [**2187-12-29**] 11:45 AM
 CHEST PAIN - At [**2187-12-29**] 11:45 AM
 CARDIAC CATH - At [**2187-12-29**] 12:15 PM
   T 101  at 6AM
   Lidocaine stopped and pacer wire pulled.  Chest pain following pacer
   pulling.  Urgent cath showing no significant disease and widely patent
   PCA stent.  Urgent echo showed no significant change.  Patient
   continues to have ectopy.  Started on 14 NPH [**Hospital1 **].
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 950 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-30**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 70 (62 - 72) bpm
   BP: 121/68(81) {116/58(73) - 160/81(101)} mmHg
   RR: 18 (16 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  3,158 mL
                                                                    216 mL
   PO:
                                                                  1,310 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,848 mL
                                                                    156 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    300 mL
   Urine:
                                                                  1,700 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,458 mL
                                                                    -84 mL
   Respiratory support
   O2 Delivery Device: None, Nasal cannula
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   GENERAL: WDWN male in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   Bradycardic, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Mild crackles at bases.
   ABDOMEN: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: No c/c/e. No femoral bruits. Pacer line in right femoral
   fossa.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
                                     131
                               [image002.gif]
                                     95
                               [image002.gif]
                                     25
   [image004.gif]
   185
                                                                   AGap=11
   [image005.gif]
   3.4
                               [image002.gif]
                                     28
                               [image002.gif]
                                     1.2
   [image007.gif]
   CK: 273
   MB: Pnd
   Ca: 7.6 Mg: 2.3 P: 2.7 D
   91
                                                                      12.8
                                                            [image007.gif]
                                    11.4
   [image004.gif]
   214
                 [image008.gif]
   [image004.gif]
                                    30.8
   [image007.gif]
   PT: 14.8
   PTT: 46.9
   INR: 1.3
                            [**2187-12-28**]  05:03 PM
                            [**2187-12-28**]  08:31 PM
                            [**2187-12-28**]  11:02 PM
                            [**2187-12-29**]  05:30 AM
                            [**2187-12-29**]  09:00 AM
                            [**2187-12-29**]  02:00 PM
                            [**2187-12-29**]  03:26 PM
                            [**2187-12-29**]  06:00 PM
                            [**2187-12-30**]  04:24 AM
   WBC
   10.3
   11.8
   10.8
   11.4
   12.8
   Hct
   38.3
   35.1
   35.3
   30.3
   30.8
   Plt
   [**Telephone/Fax (3) 2213**]00
   214
   Cr
   1.6
   1.4
   1.2
   TropT
   2.79
   2.32
   Glucose
   [**Telephone/Fax (3) 2214**]79
   286
   185
   Other labs: PT / PTT / INR:14.8/46.9/1.3, CK / CKMB /
   Troponin-T:273/8/2.32, ALT / AST:70/63, Alk Phos / T Bili:113/1.1,
   Lactic Acid:2.1 mmol/L, Albumin:3.4 g/dL, LDH:692 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   56 M with no PMH, Jehova's witness p/w weakness, bradycardia,
   hyperglycemia, STEMI now s/p stenting of posterorlateral RCA.
   Infarction likely of AV node causing bradycardia
   .
   ST-ELEVATION MYOCARDIAL INFARCTION - Patient with significant
   right-sided infarction.  Elevated troponin/CK-MB and history suggest
   significant duration of ischemia and low chance of myocardial
   recovery.  CKs have peaked.  Patient is s/p RCA stenting.
   - Medical management with ASA, statin, plavix.  Now off integralin.
   - Daily EKGs
   - Will start captopril today.  No beta-blocker as bradycardic.
   .
   BRADYCARDIA - Likely seconday to ichemia of conduction system.  Patient
   appears to have isorhythmic dissociation.  Pacer wires placed in cath
   lab.  Rhythm progressed from CHB to 2nd-degree to 1st -degree
   (conduction delay).
   - D/C pacer leads today as no longer with a rhythm that would indicate
   need for PPM and improving HR.
   - D/C lidocaine
   - No beta-blocker
   .
   PUMP - Will need careful monitoring of volume status as severly
   dehydrated from hyperglycemia and likely poor cardiac output secondary
   to right-sided MI.
   - Gental hydration post-cath.
   - Monitor for signs of volume overload
   - Echo today
   .
   HYPERGLYCEMIA - Hyperglycemia likely represents longstanding
   undiagnosed diabetes.  HbA1c 11.9 indicative of chronic disease.  Off
   insulin gtt.  Based on gtt requirements of [**3-19**] U/hr (> 50 U/day) and 14
   unit sliding scale requirement in 12 hours off gtt.  Will start with
   NPH 14 [**Hospital1 **] plus sliding scale and uptitrate NPH as needed.
   - Will need PCP [**Last Name (NamePattern4) 2207**]
   .
   RENAL FAILURE - Suspect acute renal failure in setting of poor
   perfusion and hyperglycemic hypovolemia.  [**Month (only) 11**] represent diabetic
   nephropathy if more chronic.  Improved today.
   - Daily Cr.
   - Outpatient urine protein.
   .
   CLINICAL TRIAL - Patient is on ICE-T-TIMI-49 trial, a RCT of low dose
   IC tenecteplace during PCI for STEMIs.  He received tenecteplase or
   placebo.  Patient had ECK at noon and 2 PM, and CBC at 5PM and 11AM, as
   well as CK, CK-MB and Tropin T q8 hours for 3 sets.  He will be
   contact[**Name (NI) **] at 30-35 days by phone to assess for adverse advents
   .
   FEN: Diabetic, cardiac diet.
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with SQ heparin
   -Bowel regimen colase/senna if needed
   CODE: Confirmed full
   DISPO: CCU
   CONTACT: Wife Cell [**Telephone/Fax (1) 2146**];  [**Name2 (NI) 1246**] [**Telephone/Fax (1) 2147**]
             IV access: Peripheral line Order date: [**12-28**] @ 1215
   11. Heparin IV per Weight-Based Dosing Guidelines
   Order date: [**12-29**] @ 1155
   2. IV access: Temporary central access (ICU) Location: Right Femoral,
   Date inserted: [**2187-12-28**] Order date: [**12-28**] @ [**2081**]
   12. Insulin SC  (per Insulin Flowsheet)
         Sliding Scale & Fixed Dose Order date: [**12-29**] @ 1421
   3. Acetaminophen 325-650 mg PO Q6H:PRN  Order date: [**12-28**] @ [**2209**]
   13. Influenza Virus Vaccine 0.5 mL IM ASDIR
   Follow Influenza Protocol Document administration in POE   Order date:
   [**12-28**] @ 1212
   4. Aspirin EC 325 mg PO DAILY  Order date: [**12-28**] @ 1117
   14. Insulin 100 Units/100 ml NS @ 0-10 UNIT/HR IV DRIP TITRATE TO
   Titrate to BS < 160
   Fingersticks every hour  Order date: [**12-28**] @ 1217
   5. Atorvastatin 80 mg PO DAILY  Order date: [**12-28**] @ 1244
   15. Nitroglycerin 0.05-0.2 mcg/kg/min IV DRIP TITRATE TO chest pain
   free  Order date: [**12-29**] @ 1203
   6. Atropine Sulfate 0.5 mg IV X1:PRN symptomatic bradycardia &
   hypotension
   [**Month (only) 11**] repeat up to 2 mg total (including Atropine during procedure).
   Order date: [**12-29**] @ 1309
   16. Potassium Chloride 60 mEq PO ONCE Duration: 1 Doses
   Hold for K >  Order date: [**12-30**] @ 0532
   7. Captopril 6.25 mg PO TID
   Hold for SBP < 90  Order date: [**12-29**] @ 1801
   17. Senna 1 TAB PO BID:PRN  Order date: [**12-28**] @ 1405
   8. Clopidogrel 75 mg PO DAILY
   for the recommended duration  Order date: [**12-28**] @ 1117
   18. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**12-28**] @ 1215
   9. Docusate Sodium 100 mg PO BID PRN  Order date: [**12-28**] @ 1405
   19. Sodium Chloride 0.9% Flush 10 mL IV PRN line flush
   Temporary Central Access-ICU: Flush with 10mL Normal Saline daily and
   PRN.  Order date: [**12-28**] @ [**2081**]
   10. Eptifibatide 14.4 mg IV ONCE Duration: 1 Doses
   Then start drip  Order date: [**12-29**] @ 1201

2187-12-31 06:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   STEMI
   24 Hour Events:
 BLOOD CULTURED - At [**2187-12-30**] 10:00 AM
   Decreased BM overnight, had temp of 100.5 at MN.  Urine Cx resent and
   pending.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-12-30**] 10:00 PM
   Other medications:
   NPH 17/17 + SSI
   ASA 325mg
   Clopidogrel 75mg
   Atorvastatin 80mg daily
   SCH
   Captopril 12.5mg TID
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-31**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.4
C (99.4
   HR: 63 (62 - 74) bpm
   BP: 129/62(78) {110/55(67) - 138/71(84)} mmHg
   RR: 16 (15 - 22) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 72 Inch
                  Total In:
                                                                  1,310 mL
                                                                     60 mL
   PO:
                                                                  1,110 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    200 mL
   Blood products:
   Total out:
                                                                  2,025 mL
                                                                      0 mL
   Urine:
                                                                  1,275 mL
   NG:
                                                                    250 mL
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                   -715 mL
                                                                     60 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   GENERAL: WDWN male in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   Bradycardic, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Mild crackles at bases.
   ABDOMEN: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: No c/c/e. No femoral bruits. Pacer line in right femoral
   fossa.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   243 K/uL
   9.9 g/dL
   82 mg/dL
   1.1 mg/dL
   27 mEq/L
   3.5 mEq/L
   22 mg/dL
   101 mEq/L
   135 mEq/L
   27.9 %
   12.2 K/uL
        [image002.jpg]
                            [**2187-12-28**]  05:03 PM
                            [**2187-12-28**]  08:31 PM
                            [**2187-12-28**]  11:02 PM
                            [**2187-12-29**]  05:30 AM
                            [**2187-12-29**]  09:00 AM
                            [**2187-12-29**]  02:00 PM
                            [**2187-12-29**]  03:26 PM
                            [**2187-12-29**]  06:00 PM
                            [**2187-12-30**]  04:24 AM
                            [**2187-12-31**]  05:00 AM
   WBC
   10.3
   11.8
   10.8
   11.4
   12.8
   12.2
   Hct
   38.3
   35.1
   35.3
   30.3
   30.8
   27.9
   Plt
   [**Telephone/Fax (3) 2213**]00
   214
   243
   Cr
   1.6
   1.4
   1.2
   1.1
   TropT
   2.79
   2.32
   Glucose
   [**Telephone/Fax (3) 2214**]79
   286
   185
   82
   Other labs: PT / PTT / INR:14.8/46.9/1.3, CK / CKMB /
   Troponin-T:273/4/2.32, ALT / AST:70/63, Alk Phos / T Bili:113/1.1,
   Lactic Acid:2.1 mmol/L, Albumin:3.4 g/dL, LDH:692 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   56 M with no PMH, Jehova's witness p/w weakness, bradycardia,
   hyperglycemia, STEMI now s/p stenting of posterorlateral RCA.
   Infarction likely of AV node causing bradycardia
   ST-ELEVATION MYOCARDIAL INFARCTION - Patient with significant
   right-sided infarction.  Elevated troponin/CK-MB and history suggest
   significant duration of ischemia and low chance of myocardial
   recovery.  CKs have peaked.  Patient is s/p RCA stenting.
   - Medical management with ASA, statin, plavix.  Now off integralin.
   - Daily EKGs
   - Will start captopril today.  No beta-blocker as bradycardic.
   BRADYCARDIA - Likely seconday to ichemia of conduction system.  Patient
   appears to have isorhythmic dissociation.  Pacer wires placed in cath
   lab.  Rhythm progressed from CHB to 2nd-degree to 1st -degree
   (conduction delay).
   - D/C pacer leads today as no longer with a rhythm that would indicate
   need for PPM and improving HR.
   - D/C lidocaine
   - No beta-blocker
   PUMP - Will need careful monitoring of volume status as severly
   dehydrated from hyperglycemia and likely poor cardiac output secondary
   to right-sided MI.
   - Gental hydration post-cath.
   - Monitor for signs of volume overload
   - Echo today
   HYPERGLYCEMIA - Hyperglycemia likely represents longstanding
   undiagnosed diabetes.  HbA1c 11.9 indicative of chronic disease.  Off
   insulin gtt.  Based on gtt requirements of [**3-19**] U/hr (> 50 U/day) and 14
   unit sliding scale requirement in 12 hours off gtt.  Will uptitrate NPH
   to 17 U [**Hospital1 **] given elevated blood sugars.
   - Will need PCP [**Name9 (PRE) 2207**]
   RENAL FAILURE
 Improving.  Suspect acute renal failure in setting of
   poor perfusion and hyperglycemic hypovolemia.  [**Month (only) 11**] represent diabetic
   nephropathy if more chronic.  Improved today.
   - Daily Cr.
   - Outpatient urine protein.
   CLINICAL TRIAL - Patient is on ICE-T-TIMI-49 trial, a RCT of low dose
   IC tenecteplace during PCI for STEMIs.  He received tenecteplase or
   placebo.  Patient had ECK at noon and 2 PM, and CBC at 5PM and 11AM, as
   well as CK, CK-MB and Tropin T q8 hours for 3 sets.  He will be
   contact[**Name (NI) **] at 30-35 days by phone to assess for adverse advents
   FEN: Diabetic, cardiac diet.
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with SQ heparin
   -Bowel regimen colase/senna if needed
   CODE: Confirmed full
   DISPO: CCU
   CONTACT: Wife Cell [**Telephone/Fax (1) 2146**];  [**Name2 (NI) 1246**] [**Telephone/Fax (1) 2147**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2187-12-28**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: